US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-acetamide (45 70002237)
The title compound is prepared from 4-benzyl-piperidine and 2-chloro-N-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-acetamide according to the method described in Example 142b. Melting Point: 270° C. (diethylether

reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 2-chloro-N-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-acetamide | ClCC(=O)NC1=CC2=C(NC(N2)=O)C=C1 | C9H8ClN3O2
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC1=CC2=C(NC(N2)=O)C=C1 | C21H24N4O2
